US08022223B2
Step B: Preparation of methyl 4-(2-aminopyridin-3-ylthio)benzoate:
Added zinc powder (13.88 g, 212.2 mmol) slowly to a solution of methyl 4-(2-nitropyridin-3-ylthio)benzoate (6.16 g, 21.22 mmol) in acetic acid (75 mL) at ambient temperature in an ambient water bath. Stirred for an hour, diluted with dichloromethane, and filtered through celite. Washed the celite pad several times with dichloromethane. Concentrated the filtrate, and partitioned the residue between 2N NaOH and ethyl acetate. The organic layer was washed with water, brine, dried and concentrated to afford the title compound (5.5 g, 99.57% yield).

reactant | methyl 4-(2-nitropyridin-3-ylthio)benzoate | 21.22 mmol, 6.16 g | [N+](=O)([O-])C1=NC=CC=C1SC1=CC=C(C(=O)OC)C=C1 | C13H10N2O4S
solvent | acetic acid | 75 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | zinc | 212.2 mmol, 13.88 g | [Zn] | Zn
product | methyl 4-(2-aminopyridin-3-ylthio)benzoate | 5.5 g, 99.57% yield | NC1=NC=CC=C1SC1=CC=C(C(=O)OC)C=C1 | C13H12N2O2S
